US06699651B1
The compound 4-amino-phenylsulfonylacetic acid hemisulfate salt (preparation described in U.S. Pat. No. 6,242,155 B1) (104.4 g, 0.33 mol) and phthalic anhydride (49.3 g, 0.33 mol) were combined in a 2 liter 3-neck round bottom flask, fitted with a mechanical stirrer, a thermometer and a condenser. Glacial acetic acid (1 L) was added to the mixture. Triethylamine (7.4 g, 10.1 mol) was slowly added to this suspension while being stirred at room temperature. The resulting mixture was heated to 110° C. for 3 hours, resulting in a clear solution. It was then cooled to 50° C. and ice and water were added to it—resulting in the precipitation of white solid. Kept in the refrigerator overnight. Solid was filtered, washed with water and with ligroin. It was then dried in the oven to give 56.8 g (yield 50%) of the desired 4-phthalimido-phenylsulfonylacetic acid, 97% pure by HPLC.

reactant | 4-amino-phenylsulfonylacetic acid hemisulfate salt | S(=O)(=O)(O)O.NC1=CC=C(C=C1)S(=O)(=O)CC(=O)O.NC1=CC=C(C=C1)S(=O)(=O)CC(=O)O
reactant | phthalic anhydride | 0.33 mol, 49.3 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | acetic acid | 1 L | C(C)(=O)O | C2H4O2
reactant | Triethylamine | 10.1 mol, 7.4 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-phthalimido-phenylsulfonylacetic acid | 56.8 g, yield 50% | C1(C=2C(C(N1C1=CC=C(C=C1)S(=O)(=O)CC(=O)O)=O)=CC=CC2)=O | C16H11NO6S
